US03974140
a. N,N'-Dimethyl-N,N'-bis-trimethylsilyl-ethylenediamine:
A mixture of 176 parts by weight of N,N'-dimethylethylenediamine, 1000 parts by volume of benzene and 552 parts by volume of triethylamine were stirred at room temperature and at the same time 434 parts by weight of trimethylchlorosilane, diluted with 500 parts by volume of benzene, were added dropwise over the course of 3 hours. The mixture was stirred for a further 3.5 hours and left to stand overnight, and the precipitate present was filtered off and washed with benzene. The combined filtrates were concentrated in a rotary evaporator and the residue was distilled in vacuo.

reactant | N,N'-dimethylethylenediamine | CNCCNC | C4H12N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N'-Dimethyl-N,N'-bis-trimethylsilyl-ethylenediamine | CN(CCN([Si](C)(C)C)C)[Si](C)(C)C | C10H28N2Si2
